* Z:\mnt\design.r\spice\examples\3796.asc
XU1 OUT N011 N012 0 N010 0 N004 N015 N007 N007 N017 N016 MP_01 N007 NC_02 NC_03 MP_04 N008 N006 N013 MP_05 MP_06 IN N005 IN N001 N003 N009 LT3796
V1 IN 0 36
R1 IN N001 50m
R2 IN N005 499K
R3 N005 0 97.6K
C1 N009 0 10n
C2 N010 0 .1µ
C3 N015 N018 10n
R4 N016 0 31.6K
C4 N017 0 .05µ
C5 N013 0 4.7µ
M§Q1 N002 N006 N008 N008 BSH114
R5 N008 0 15m
R6 OUT N011 620m
M§Q2 N014 N012 N011 N011 IRF9640
D1 N014 0 LXHL-BW02
R7 OUT N004 1Meg
R8 N004 0 13.7K
C6 OUT 0 2.2µ x4
L1 N001 N002 22µ
D2 N002 OUT PDS5100
R9 N018 0 10K
R10 IN N003 2K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LT3796.sub
.backanno
.end
